US07649002B2
(2Z)-3-(2,4-Difluorophenyl)acrylic acid
A solution of methyl (2Z)-3-(2,4-difluorophenyl)acrylate, from preparation 34 (1.3 g, 6.56 mmol) and 1M lithium hydroxide (314 mg, 13.1 mmol) in tetrahydrofuran (51 mL) was stirred at room temperature for 24 hours. The solvent was removed in vacuo and the residue was dissolved in water (10 mL) and ethyl acetate (20 mL) was added. The phases were separated and the aqueous phase was acidified to pH 2 using 2M hydrochloric acid solution (3 mL). The aqueous phase was extracted with diethyl ether (2×30 mL). These organic extracts were combined, dried over magnesium sulfate, filtered and concentrated in vacuo to give the desired product as a white solid, 1.03 g (86%).

reactant | methyl (2Z)-3-(2,4-difluorophenyl)acrylate | FC1=C(C=CC(=C1)F)\C=C/C(=O)OC | C10H8F2O2
reactant | lithium hydroxide | 13.1 mmol, 1M, 314 mg | [OH-].[Li+]
solvent | tetrahydrofuran | 51 mL | O1CCCC1 | C4H8O
product | (2Z)-3-(2,4-Difluorophenyl)acrylic acid | FC1=C(C=CC(=C1)F)\C=C/C(=O)O | C9H6F2O2
